US07241787B2
(4-Cyclopentyloxyphenyl)(2,2-diethoxyethyl)amine
A suspension of 4-cyclopentyloxyaniline (8.86 g), bromoacetaldehyde diethyl acetal (13 g), potassium carbonate (13.8 g) and dimethylformamide (100 ml) was heated at 80° C. for 6 hours. Cooling was followed by filtration and concentration of the filtrate. The residue was purified by chromatography on silica gel (eluent: heptane/ethyl acetate 2:1). The product with the molecular weight of 293.41 (C17H27NO3) was obtained in this way; MS (ESI): 294 ([M+H]+).

reactant | 4-cyclopentyloxyaniline | 8.86 g | C1(CCCC1)OC1=CC=C(N)C=C1 | C11H15NO
reactant | bromoacetaldehyde diethyl acetal | 13 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (4-Cyclopentyloxyphenyl)(2,2-diethoxyethyl)amine | C1(CCCC1)OC1=CC=C(C=C1)NCC(OCC)OCC | C17H27NO3
